US07893059B2
5-Chloro-7-morpholinothiazolo[5,4-d]pyrimidine was slurried in tetrahydrofuran and cooled to −78° C. under nitrogen. Two equivalents of 2M lithium diisopropylamide in heptane/tetrahydrofuran/ethylbenzene was added slowly and the solution was stirred for 30 minutes. dimethylformamide (6 eq) was added and the solution was stirred at −78° C. for an additional one hour. The solution was warmed to 0° C. and ice cold 0.1N hydrochloric acid was added and the solution was warmed to room temperature before extraction with methylene chloride. The organic layer was dried with sodium sulfate and concentrated to give 5-chloro-7-morpholinothiazolo[5,4-d]pyrimidine-2-carbaldehyde.

reactant | 5-Chloro-7-morpholinothiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC=N2)N2CCOCC2 | C9H9ClN4OS
reactant | lithium diisopropylamide | 2M, Two equivalents | C(C)(C)[N-]C(C)C.[Li+]
reactant | dimethylformamide | 6 eq | CN(C=O)C | C3H7NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
product | 5-chloro-7-morpholinothiazolo[5,4-d]pyrimidine-2-carbaldehyde | ClC=1N=C(C2=C(N1)SC(=N2)C=O)N2CCOCC2 | C10H9ClN4O2S
